US05864043
4'-[(2-n-Butyl-6-((5-hydroxy-n-pentyl)-aminocarbonylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid monohydrate
Prepared in analogous manner to Example 72 from ethyl 4'-[(2-n-butyl-6-((5-hydroxy-n-pentyl)-aminocarbonyl-amino)-benzimidazol-1-yl)methyl]biphenyl-2-carboxylate and 2N NaOH/ethanol.

reactant | ethyl 4'-[(2-n-butyl-6-((5-hydroxy-n-pentyl)-aminocarbonyl-amino)-benzimidazol-1-yl)methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OCC)C=C(C=C2)N(C(=O)N)CCCCCO | C33H40N4O4
reactant | NaOH ethanol | 2N | [OH-].[Na+].C(C)O
product | 4'-[(2-n-Butyl-6-((5-hydroxy-n-pentyl)-aminocarbonylamino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid monohydrate | O.C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)N(C(=O)N)CCCCCO | InChI=1S/C31H36N4O4.H2O/c1-2-3-11-29-33-27-17-16-24(34(31(32)39)18-7-4-8-19-36)20-28(27)35(29)21-22-12-14-23(15-13-22)25-9-5-6-10-26(25)30(37)38;/h5-6,9-10,12-17,20,36H,2-4,7-8,11,18-19,21H2,1H3,(H2,32,39)(H,37,38);1H2
